.SubCkt GRMJN7R61C226ME05 [_net1] [_net2]
.param K01=1.5523e-05
.param M01=2.2727e+06
.param L02=1.7553e-10
.param M03=2.7808e-03
.param K04=8.8660e-04
.param M04=4.5727e+00
.param K05=1.2283e-03
.param M05=4.1222e-01
.param K06=1.3539e-03
.param M06=5.7618e-02
.param K07=2.0677e-03
.param M07=6.7240e-03
.param K08=1.0765e-03
.param M08=2.7527e-03
.param L09=2.3996e-11
.param M09=1.0772e-01
.param L10=5.5429e-11
.param M10=2.8952e-02
.param L11=2.7830e-10
.param M11=1.3783e-02
.param K12=4.0375e-05
.param L12=7.2182e-11
.param M12=2.1967e-03
.param K13=1.7673e-05
.param L13=8.4671e-11
.param M13=3.3358e-03
.param K14=1.7144e-11
.param L14=3.3823e-11
.param M14=2.4650e+00
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net2 {K14}
L14 _net1314 _net2 {L14}
R14 _net1314 _net2 {M14}
.ends GRMJN7R61C226ME05

.SubCkt GRMJN7R61C206ME05 [_net1] [_net2]
.param K01=1.5790e-05
.param M01=2.5000e+06
.param L02=1.7890e-10
.param M03=2.5331e-03
.param K04=1.3615e-03
.param M04=1.8317e+00
.param K05=1.6070e-03
.param M05=3.8111e-01
.param K06=1.5205e-03
.param M06=7.5001e-02
.param K07=1.8771e-03
.param M07=1.2619e-02
.param K08=1.2209e-03
.param M08=2.6798e-03
.param L09=2.7642e-11
.param M09=1.0105e-01
.param L10=6.0765e-11
.param M10=2.4444e-02
.param L11=2.2977e-10
.param M11=7.1496e-03
.param L12=1.2026e-10
.param M12=5.2857e-03
.param K13=1.6360e-04
.param L13=2.3206e-11
.param M13=1.3738e-03
.param K14=2.3312e-05
.param L14=8.0893e-11
.param M14=3.1356e-03
.param K15=3.4029e-11
.param L15=2.1616e-11
.param M15=1.4965e+00
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net2 {K15}
L15 _net1415 _net2 {L15}
R15 _net1415 _net2 {M15}
.ends GRMJN7R61C206ME05

.SubCkt GRMJN7R60J436ME05 [_net1] [_net2]
.param K01=3.1826e-05
.param M01=1.1628e+06
.param L02=1.7169e-10
.param M03=2.4181e-03
.param K04=2.7486e-03
.param M04=9.6563e-01
.param K05=3.1246e-03
.param M05=2.1534e-01
.param K06=2.7833e-03
.param M06=4.5269e-02
.param K07=3.7740e-03
.param M07=8.3247e-03
.param K08=2.3331e-03
.param M08=1.5444e-03
.param L09=4.2644e-11
.param M09=1.1830e-01
.param L10=8.9692e-11
.param M10=2.6285e-02
.param L11=2.5747e-10
.param M11=5.3791e-03
.param L12=1.2863e-10
.param M12=4.3295e-03
.param K13=3.7648e-04
.param L13=2.4239e-11
.param M13=8.6329e-04
.param K14=4.9000e-05
.param L14=8.8966e-11
.param M14=2.1467e-03
.param K15=1.8349e-11
.param L15=2.9713e-11
.param M15=1.8460e+00
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net2 {K15}
L15 _net1415 _net2 {L15}
R15 _net1415 _net2 {M15}
.ends GRMJN7R60J436ME05
